US08623889B2
To a mixture of 7-bromoisoquinolin-3-amine (253.2 mg, 1.135 mmol), 4-methylpyridine-3-boronic acid (188.8 mg, 1.379 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (81.0 mg, 0.114 mmol), and cesium carbonate (0.7432 g, 2.281 mmol) was added 1,2-dimethoxyethane (5 mL, 50 mmol) and water (0.5 mL, 30 mmol). The reaction mixture was subjected to microwave irradiation at 130° C. for 30 minutes. 4-Methylpyridine-3-boronic acid (197.2 mg, 1.440 mmol) was added and the reaction mixture was subjected to microwave irradiation at 130° C. for 45 min. The reaction mixture was diluted with dichloromethane, washed with saturated aqueous NaHCO3, dried over MgSO4, and evaporated in vacuo. The crude material was purified via flash chromatography on silica gel (25 g silica, solvent gradient: 0-10% methanol in dichloromethane) to yield 111.1 mg (42%) of 7-(4-methylpyridin-3-yl)isoquinolin-3-amine. LCMS (ESI): M+H=236.2; 1H NMR (400 MHz, DMSO-d6) δ 8.87 (s, 1H), 8.43 (d, J=6.4 Hz, 2H), 7.81 (s, 1H), 7.60 (d, J=8.5 Hz, 1H), 7.49 (dd, J=8.6, 1.7 Hz, 1H), 7.35 (d, J=5.0 Hz, 1H), 6.67 (s, 1H), 5.99 (s, 2H), 2.31 (s, 3H).

reactant | 7-bromoisoquinolin-3-amine | 1.135 mmol, 253.2 mg | BrC1=CC=C2C=C(N=CC2=C1)N | C9H7BrN2
reactant | 4-methylpyridine-3-boronic acid | 1.379 mmol, 188.8 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
reactant | cesium carbonate | 2.281 mmol, 0.7432 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2-dimethoxyethane | 50 mmol, 5 mL | COCCOC | C4H10O2
reactant | water | 30 mmol, 0.5 mL | O | H2O
reactant | 4-Methylpyridine-3-boronic acid | 1.440 mmol, 197.2 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.114 mmol, 81.0 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 7-(4-methylpyridin-3-yl)isoquinolin-3-amine | 111.1 mg, 42% | CC1=C(C=NC=C1)C1=CC=C2C=C(N=CC2=C1)N | C15H13N3
